US07696193B2
5-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-2-pyrazinecarboxamide (E263)
5-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-2-pyrazinecarboxylic acid (E123a) (168 mg, 0.47 mmol) was dissolved in dry dimethylformamide (5 ml), treated with 1,1′-carbonyldiimidazole (230 mg, 1.42 mmol) and the resulting mixture stirred at room temperature for 1.5 hours. The mixture was treated with 0.880 ammonia (0.14 ml, 2.84 mmol) and stirred for 4 hours. The reaction mixture was concentrated in vacuo and the resulting residue purified by column chromatography eluting with a mixture of (0.5:4.5:95) to afford the title compound; MS (ES+) m/e 339 [M+H]+.

reactant | 5-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-2-pyrazinecarboxylic acid | 0.47 mmol, 168 mg | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC=2N=CC(=NC2)C(=O)O | C19H21N3O3
reactant | 1,1′-carbonyldiimidazole | 1.42 mmol, 230 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia | 2.84 mmol, 0.14 ml | N | H3N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-2-pyrazinecarboxamide | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC=2N=CC(=NC2)C(=O)N | C19H22N4O2
